US09279806B2
To a mixture of 4,4′-dihydroxybenzophenone (1.0 g, 4.7 mmol) and potassium carbonate (1.3 g, 9.3 mmol) in acetone (50 mL) was added 1,8-dibromooctane (3.8 g, 14.0 mmol). The mixture was refluxed under stirring for 12 h. After filtration and solvent evaporation, the crude product was purified by a silica gel column using chloroform as eluent. 4,4′-bis(8-bromooctyloxy)benzophenone was obtained as white powder in 66% yield (3.10 g). Rf=0.5 (chloroform). NMR (400 MHz, CDCl3), δ (ppm): 7.78 (d, 4H), 6.94 (d, 4H), 4.05 (t, 4H), 3.42 (t, 4H), 1.89□1.80 (m, 8H), 1.48-1.39 (m, 16H). 13C NMR (100 MHz, CDCl3), δ (ppm): 193.9, 161.8, 131.6, 129.9, 113.3, 67.5, 33.3, 32.1, 28.5, 28.4, 28.0, 27.4, 25.3.

reactant | 4,4′-dihydroxybenzophenone | 4.7 mmol, 1.0 g | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
reactant | potassium carbonate | 9.3 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,8-dibromooctane | 14.0 mmol, 3.8 g | BrCCCCCCCCBr | C8H16Br2
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 4,4′-bis(8-bromooctyloxy)benzophenone | 66% yield | BrCCCCCCCCOC1=CC=C(C(=O)C2=CC=C(C=C2)OCCCCCCCCBr)C=C1 | C29H40Br2O3
